US04994486
A solution of m-chloroperbenzoic acid (mCPBA; 17 g, 0.1 mol) in 120 mL of methylene chloride was added (at ambient temperature) dropwise to a solution of allyl benzene (10 g, 85 mmol) in 200 mL of methylene chloride. After the reaction mixture was stirred for 5 h with a mechanical stirrer, 5 additional grams of m-CPBA were added and the reaction mixture stirred for another 2 h. The reaction mixture was then diluted with 200 mL of ether, washed with 2×100 mL of aqueous sodium bisulfite solution, 100 mL of aqueous sodium bicarbonate solution and 100 mL of brine. The organic solution was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by bulb-to-bulb distillation (60° C., 0.1 mm) to give 8.5 g (77% yield) of 1-benzyl ethylene oxide as a clear colorless liquid.

reactant | m-chloroperbenzoic acid | 0.1 mol, 17 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | allyl benzene | 85 mmol, 10 g | C(C=C)C1=CC=CC=C1 | C9H10
reactant | m-CPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 200 mL | CCOCC | C4H10O
product | 1-benzyl ethylene oxide | 8.5 g, 77% yield | C(C1=CC=CC=C1)C1CO1 | C9H10O
